US06100275
(±)-8-Methyl-3-(4-trifluoromethylphenyl)-8-azabicyclo[3.2.1]oct-2-ene Malonate
The title compound was prepared from 8-methyl-3-(4-trifluoromethylphenyl)-8-azabicyclo[3.2.1]octan-3-ol (5 g, 17.5 mmol), glacial acetic acid (16 mL) and concentrated hydrochloric acid (16 mL). The free base of the title compound was dissolved in ethanol (96%) and added malonic acid (1.17 g, 11.2 mmol) in ethanol (96%), the solution was concentrated to dryness, and the residue was trituated in diethyl ether, the title compound precipitated as powder and was isolated by filtration. Yield 3.9 g (60%), m.p. 106.7-107.8° C.

reactant | 8-methyl-3-(4-trifluoromethylphenyl)-8-azabicyclo[3.2.1]octan-3-ol | 17.5 mmol, 5 g | CN1C2CC(CC1CC2)(O)C2=CC=C(C=C2)C(F)(F)F | C15H18F3NO
reactant | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 16 mL | Cl | ClH
reactant | malonic acid | 11.2 mmol, 1.17 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | ethanol | C(C)O | C2H6O
product | (±)-8-Methyl-3-(4-trifluoromethylphenyl)-8-azabicyclo[3.2.1]oct-2-ene Malonate | C(CC(=O)O)(=O)O.CN1C2C=C(CC1CC2)C2=CC=C(C=C2)C(F)(F)F | InChI=1S/C15H16F3N.C3H4O4/c1-19-13-6-7-14(19)9-11(8-13)10-2-4-12(5-3-10)15(16,17)18;4-2(5)1-3(6)7/h2-5,8,13-14H,6-7,9H2,1H3;1H2,(H,4,5)(H,6,7)
